US05760035
A solution of 4-(ethylaminomethyl)-1-(2-phenoxyethyl)piperidine (3.0 g) in 98% formic acid (2.2 ml) and 37% aqueous formaldehyde (2.06 ml) was heated on a steam bath for 5 hours. Work up as described in Example 10 gave an oil which was dissolved in ether and treated with ethereal hydrogen chloride solution to give a solid which was collected by filtration and recrystallised from absolute ethanol to give 4-(N-ethyl-N-methylaminomethyl)-1-(2-phenoxyethyl)piperidine dihydrochloride, m.p. 248°-250° C.

reactant | 4-(ethylaminomethyl)-1-(2-phenoxyethyl)piperidine | 3.0 g | C(C)NCC1CCN(CC1)CCOC1=CC=CC=C1 | C16H26N2O
reactant | hydrogen chloride | Cl | ClH
reactant | formic acid | 2.2 ml | C(=O)O | CH2O2
solvent | formaldehyde | 2.06 ml | C=O | CH2O
solvent | ether | CCOCC | C4H10O
product | 4-(N-ethyl-N-methylaminomethyl)-1-(2-phenoxyethyl)piperidine dihydrochloride | Cl.Cl.C(C)N(C)CC1CCN(CC1)CCOC1=CC=CC=C1 | InChI=1S/C17H28N2O.2ClH/c1-3-18(2)15-16-9-11-19(12-10-16)13-14-20-17-7-5-4-6-8-17;;/h4-8,16H,3,9-15H2,1-2H3;2*1H
